US05130318
A 1.3M solution of aminodimethyl aluminium in dichloromethane (obtained as described in Tetrahedron Letters, 1979, 4907) (7.8 ml) was added to a solution of methyl 2,6-diethyl-1,4-dihydro-4-oxopyridine-3-carboxylate (1.05 g in dichloromethane (50 ml) and the solution was left to stand for 20 hours. Methanol (5 ml) was added and the mixture was stirred for 1 hour. The precipitated solid was removed by filtration through a bed of diatomaceous earth. The filtrate was concentrated and the residue purified by flash chromatography, eluting with methanol/dichloromethane (1:9 v/v), to give 2,6-diethyl-1,4-dihydro-4-oxopyridine-3-carboxamide (0.5 g), m.p. 254° C.; NMR (d6 -DMSO): 1.15-1.25(m,6H), 2.5(q,2H), 3.0(q,2H), 6.1(s,1H), 7.0(br s, 1H), 9.6(br s, 1H), 11.3(br s, 1H).

reactant | aminodimethyl aluminium | N[Al](C)C
reactant | methyl 2,6-diethyl-1,4-dihydro-4-oxopyridine-3-carboxylate | C(C)C=1NC(=CC(C1C(=O)OC)=O)CC | C11H15NO3
reactant | Methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 7.8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,6-diethyl-1,4-dihydro-4-oxopyridine-3-carboxamide | 0.5 g | C(C)C=1NC(=CC(C1C(=O)N)=O)CC | C10H14N2O2
